US04094886
A solution of p-toluenesulfonyl azide (592 mg; 3 mmol) in 1 ml of acetonitrile was added at room temperature to a solution of 3-oxo-6-heptenoic acid methyl ester (468 mg; 3 mmol) and triethylamine (306 mg; 3 mmol) in 5 ml of acetonitrile. The mixture was stirred for about 2 hours and the solvent was distilled off under a reduced pressure and the product was dissolved in 50 ml of ether. The solution was washed with a 5% aqueous solution of potassium hydroxide until no color remained in the aqueous phase and was further washed with a saturated aqueous solution of sodium chloride. The ether solution was dried over anhydrous magnesium sulfate and was filtered and condensed under a reduced pressure to obtain 530 mg of 2-diazo-3-oxo-6-heptenoic acid methyl ester as a yellow oily product. The crude product can be purified by distillation under reduced pressure.

reactant | p-toluenesulfonyl azide | 3 mmol, 592 mg | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | 3-oxo-6-heptenoic acid methyl ester | 3 mmol, 468 mg | COC(CC(CCC=C)=O)=O | C8H12O3
reactant | triethylamine | 3 mmol, 306 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-diazo-3-oxo-6-heptenoic acid methyl ester | 530 mg | COC(C(C(CCC=C)=O)=[N+]=[N-])=O | C8H10N2O3
